US09328134B2
A solution of iodine (3.36 g, 13.2 mmol, 1.2 equiv) in DCM (168 mL) was added to a solution of (((2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-hydroxytetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride (7.5 g, 11.0 mmol, 1.0 equiv) in dry DCM (26 mL) under nitrogen atmosphere. The mixture was stirred for 16 hours and then the reaction was quenched with aqueous sodium thiosulfate solution (20 g in 50 mL water). The mixture was stirred until colorless, the layers were separated, and the organic layer was washed with saturated sodium chloride solution (75 mL) and then water (75 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material thus obtained was then purified by silica gel chromatography, eluting with 15% EtOAc in petroleum ether, to give (2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(iodomethyl)tetrahydro-2H-pyran-3-ol as a colorless oil (5.1 g, 81%). 1H NMR (300 MHz, CDCl3) δ 7.40-7.20 (m, 15H), 4.65-4.49 (m, 6H), 4.12 (td, J=5.5, 2.9 Hz, 1H), 4.02 (ddd, J=8.3, 5.8, 2.5 Hz, 1H), 3.85 (dd, J=10.1, 6.0 Hz, 2H), 3.74 (dt, J=10.4, 5.1 Hz, 2H), 3.63 (t, J=3.8 Hz, 1H), 3.40 (dd, J=10.3, 5.8 Hz, 1H), 3.29 (dd, J=10.5, 8.5 Hz, 1H), 3.11 (d, J=9.2 Hz, 1H). ESI (M+23) 597.0; calc for C28H31IO5 574.1.

reactant | iodine | 13.2 mmol, 3.36 g, 1.2 equiv | II | I2
reactant | (((2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-hydroxytetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride | 11.0 mmol, 7.5 g, 1.0 equiv | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)C[Hg]Cl)O
solvent | DCM | 168 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 26 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(iodomethyl)tetrahydro-2H-pyran-3-ol | 5.1 g, 81% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)CI)O | C28H31IO5
